US06392104B1
In an atmosphere of nitrogen, 10 mmole of 1,3-adamantanediol and one drop of pyridine were dissolved in 10 mL of DMF. To the mixture, 10 mmole of methylisocyanato was added dropwise with stirring. Cooling of the resultant mixture with ice was started at about the time exothermic reaction began. When the exothermic reaction is completed, the mixture was heated to 60° C. and then stirred for one hour. As a result, the conversion of 1,3-adamantanediol was 99% and 1-(N-methylcarbamoyloxy)-3-adamantanol (yield 85%) was formed.

reactant | 1,3-adamantanediol | 10 mmole | C12(CC3(CC(CC(C1)C3)C2)O)O | C10H16O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
product | 1-(N-methylcarbamoyloxy)-3-adamantanol | yield 85% | CNC(=O)OC12CC3(CC(CC(C1)C3)C2)O | C12H19NO3
